US08455491B2
Step 12.4. ethyl 4-[2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate
1.3 g (12 mmol) of ethyl chloroformate are added, dropwise in 5 minutes, while cooling in an ice bath, to a mixture of 1.68 g (4.8 mmol) of 2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine and 1.92 g (24 mmol) of pyridazine in 25 ml of chloroform. The mixture is stirred at ambient temperature for one hour and is then diluted with dichloromethane, and the solution is washed successively with a solution of sodium bicarbonate and then with a saturated solution of sodium chloride. The organic phase is dried over sodium sulfate and then concentrated under reduced pressure after the addition of silica gel. The evaporation residue is loaded onto a silica gel column and the product is purified by silica gel column chromatography, elution being carried out with a mixture of 0 to 10% of methanol in dichloromethane. 1.93 g of product sufficiently pure for the rest of the synthesis are thus isolated.

reactant | ethyl chloroformate | 12 mmol, 1.3 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine | 4.8 mmol, 1.68 g | BrC=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1 | C15H20BrN5
reactant | pyridazine | 24 mmol, 1.92 g | N1=NC=CC=C1 | C4H4N2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-[2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate | 1.93 g | BrC=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1C1C=NN(C=C1)C(=O)OCC | C22H28BrN7O2
